US06552188B2
Synthesis of ethyl 2-(4-trifluoromethylphenyl)-isonicotinate
4-Trifluoromethylphenylboronic acid (255 mg) and ethyl 2-chloroisonicotinate (200 mg) were reacted in the same manner as in Preparation Example 1 to obtain the title compound.

reactant | 4-Trifluoromethylphenylboronic acid | 255 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | ethyl 2-chloroisonicotinate | 200 mg | ClC=1C=C(C(=O)OCC)C=CN1 | C8H8ClNO2
product | ethyl 2-(4-trifluoromethylphenyl)-isonicotinate | FC(C1=CC=C(C=C1)C=1C=C(C(=O)OCC)C=CN1)(F)F | C15H12F3NO2
